US08383838B2
8-Ethyl-5-oxo-2,3,4,5-tetrahydro-benzo[b]oxepine-4-carboxylic acid pyridine-2-ylamide
8-Ethyl-5-oxo-2,3,4,5-tetrahydro-benzo[b]oxepine-4-carboxylic acid methyl ester (0.6 mmol) and 2-aminopyridin (0.6 mmol) were dissolved in 2.5 ml xylene. Reaction was performed by microwave irradiation for one hour at 150° C. The solution obtained from this reaction was cooled to room temperature and extracted by 2 mol/l hydrochloric acid and ethyl acetate. The ethyl acetate extract was dried over sodiumsulfate and the solvent removed in vacuo. After evaporation of the solvent in vacuo 8-Ethyl-5-oxo-2,3,4,5-tetrahydro-benzo[b]oxepine-4-carboxylic acid pyridine-2-ylamide was obtained as a white powder in a yield of 5%. LC-MS: 1.8 min, 311.2 (MH+), 1H-NMR: (DMSO-d6, 500 MHz): □ [ppm]: 10.543 (s, 1H), 8.296 (s, 1H), 8.152 (d, 1H, J=8.1 Hz), 7.798 (t, 1H, J=7.2 Hz), 7.605 (m, 1H, J=8.1 Hz), 7.102 (t, 1H, J=6.3 Hz), 7.032 (m, 1H, J=8.1 Hz), 6.983 (s, 1H), 4.594 (m, 1H, J=3.0 Hz), 4.364 (t, 1H, J=4.8 Hz), 3.942 (m, 1H, J=5.2 Hz), 2.640 (q, 2H, J=7.7 Hz), 2.512 (t, 2H, J=1.7 Hz), 1.193 (t, 3H, J=7.5 Hz)

reactant | 8-Ethyl-5-oxo-2,3,4,5-tetrahydro-benzo[b]oxepine-4-carboxylic acid methyl ester | 0.6 mmol | COC(=O)C1C(C2=C(OCC1)C=C(C=C2)CC)=O | C14H16O4
reactant | 2-aminopyridin | 0.6 mmol | NC1=NC=CC=C1 | C5H6N2
solvent | xylene | 2.5 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 8-Ethyl-5-oxo-2,3,4,5-tetrahydro-benzo[b]oxepine-4-carboxylic acid pyridine-2-ylamide | yield of 5% | N1=C(C=CC=C1)NC(=O)C1C(C2=C(OCC1)C=C(C=C2)CC)=O | C18H18N2O3
